plaintext
* SPICE Netlist for the given schematic

V1 3 0 DC 0 AC 1  ; Vin connected to node 3, ground is node 0

R1 3 2 10k        ; R1 between nodes 3 and 2

V2 2 5 DC 0       ; Vn,in connected between nodes 2 and 5 (noise source)

Cin 5 0 1uF       ; Cin between node 5 and ground

M1 6 5 0 0 NMOS   ; NMOS transistor with drain, gate, source, and body at nodes 6, 5, 0, 0

RD 4 6 1k         ; RD between nodes 4 and 6

VDD 4 0 DC 5V     ; VDD connected between node 4 and ground

.END